US08980888B2
<Step 4> Synthesis of tert-butyl (2-bromo-5,6,7,8-tetrahydroimidazo[1,2-a]pyridin-7-yl)carbamate
Molecular Sieves 4 A (6 g) was added to a tert-butanol (45 ml) solution of the 2-bromo-5,6,7,8-tetrahydroimidazo[1,2-a]pyridine-7-carboxylic acid (3.1 g) obtained in (Example 2.7) <Step 3> and triethylamine (9.7 ml), and the obtained mixture was then stirred at room temperature for 30 minutes. Thereafter, diphenyl phosphate azide (3.8 ml) was added to the reaction solution, and the obtained mixture was stirred for 30 minutes and then at 110° C. for 4 hours. Thereafter, the reaction solution was filtered with Celite, and insoluble matters were then washed with ethyl acetate. After that, ethyl acetate (100 ml) was added to the filtrate, and the obtained mixture was successively washed with a saturated ammonium chloride aqueous solution (25 ml) three times, a saturated sodium hydrogen carbonate aqueous solution (25 ml) twice, and a saturated saline. Then, the solvent was distilled away under reduced pressure. Methylene chloride was added to the obtained residue, and precipitated white insoluble matters were then removed by suction filtration. The filtrate was concentrated under reduced pressure, and the obtained residue was then purified by silica gel column chromatography (silica gel:eluent; heptane:ethyl acetate=60:40-20:80), so as to obtain the title compound (1.3 g) in the form of a white solid.

reactant | tert-butanol | 45 ml | C(C)(C)(C)O | C4H10O
reactant | 2-bromo-5,6,7,8-tetrahydroimidazo[1,2-a]pyridine-7-carboxylic acid | 3.1 g | BrC=1N=C2N(CCC(C2)C(=O)O)C1 | C8H9BrN2O2
reactant | diphenyl phosphate azide | 3.8 ml | [N-]=[N+]=[N-].P(=O)(OC1=CC=CC=C1)(OC1=CC=CC=C1)[O-]
solvent | triethylamine | 9.7 ml | C(C)N(CC)CC | C6H15N
product | tert-butyl (2-bromo-5,6,7,8-tetrahydroimidazo[1,2-a]pyridin-7-yl)carbamate | 1.3 g | BrC=1N=C2N(CCC(C2)NC(OC(C)(C)C)=O)C1 | C12H18BrN3O2
